US09290451B2
b) Methyl 5-bromo-6-(isobutylthio)picolinate
5-Bromo-6-(isobutylthio)picolinic acid (500 mg, 1.72 mmol) was dissolved in methanol (5 mL) to give a yellow solution. Sulfuric acid (169 mg, 92.3 μL, 1.72 mmol) was added. The reaction mixture was heated to 80° C. and stirred for 1 d. The reaction mixture was cooled to 0° C. and poured onto icewater/brine (25 mL). The aqueous layer was extracted with EtOAc (2×40 mL) and washed with icewater/brine (20 mL). The organic layers were combined, dried over Na2SO4 and concentrated in vacuo to give crude title compound as a yellow oil. The oil was purified by flash chromatography (silica gel, 5 g, 0% to 15% EtOAc in heptane) to give the title product (205 mg, 39%) as a colorless oil. MS (EI): m/e=306.3 [M+H]+.

reactant | 5-Bromo-6-(isobutylthio)picolinic acid | 1.72 mmol, 500 mg | BrC=1C=CC(=NC1SCC(C)C)C(=O)O | C10H12BrNO2S
reactant | Sulfuric acid | 1.72 mmol, 92.3 μL, 169 mg | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 5 mL | CO | CH4O
solvent | brine | 25 mL | [Cl-].[Na+].O
product | Methyl 5-bromo-6-(isobutylthio)picolinate | 205 mg, 39% | BrC=1C=CC(=NC1SCC(C)C)C(=O)OC | C11H14BrNO2S
